US09402841B2
Step C: (S)-3-(1-(methyl(pyrrolidin-3-yl)amino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To (S)-tert-butyl 3-(methyl(3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (91 mg, 0.222 mmol) in DCM was added TFA (1.5 mL). After 2 hours the solvent was removed in vacuo to give the title compound, which was used without further purification.

reactant | (S)-tert-butyl 3-(methyl(3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 0.222 mmol, 91 mg | CN([C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O | C21H26N6O3
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-(methyl(pyrrolidin-3-yl)amino)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | CN(C1=NC(=CC2=CC=CC=C12)C1=NNC(N1)=O)[C@@H]1CNCC1 | C16H18N6O
